US06211387B1
A suspension of magnesium (1.82 g; 0.075 moles) kept under stirring at 25° C. in ethyl ether (20 ml) was added with ethyl bromide (50 mg). After 15 minutes 1,3—dichloro-4-iodobenzene (13.65 g; 0.05 moles) in ethyl ether (20 ml) was added in about 1 hour at the temperature of 18-22° C., and at the end of the addition the stirring was kept on at 20° C. for further 90 minutes. The metallic magnesium was decanted and the surnatant solution was added in 10 minutes to a suspension of dry zinc chloride (13.6 g; 0.1 mole) in ethyl ether (20 ml). The suspension was stirred at room temperature for 90 minutes, then cooled to 0° C., added with dry DMF (40 ml) then with palladium acetate (168 mg; 0.75 mmoles) and triphenylphosphine (395 mg; 1.5 mmoles) and at last a solution of diethyl iodo-fumarate (10.45 g; 0.035 moles), prepared according to J. Am. Chem. Soc. 1972, 94 (12), 4363-4, in DMF (10 ml) was dropped in about 30 minutes. The mixture was stirred at room temperature overnight, then cooled to 0° C. added with IN HCl (80 ml) and twice extracted with hexane (80 ml) The organic phases were anhydrified over Na2SO4 and evaporated to dryness. The residue (13 g) was purified by flash chromatography (SiO2; hexane/ethyl ether 95/5) to give 7.82 g of pure (E)-2-(2,4-dichlorophenyl)-butendioic acid diethyl ester (yield: 70% calculated with respect to the diethyl iodo-fumarate).

reactant | magnesium | 0.075 moles, 1.82 g | [Mg] | Mg
reactant | 1,3—dichloro-4-iodobenzene | 0.05 moles, 13.65 g | ClC1=CC(=C(C=C1)I)Cl | C6H3Cl2I
reactant | diethyl iodo-fumarate | 0.035 moles, 10.45 g | I/C(/C(=O)OCC)=C\C(=O)OCC | C8H11IO4
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | HCl | 80 ml | Cl | ClH
catalyst | zinc chloride | 0.1 mole, 13.6 g | [Cl-].[Zn+2].[Cl-]
catalyst | palladium acetate | 0.75 mmoles, 168 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | ethyl bromide | 50 mg | C(C)Br | C2H5Br
catalyst | triphenylphosphine | 1.5 mmoles, 395 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | (E)-2-(2,4-dichlorophenyl)-butendioic acid diethyl ester | 7.82 g, yield: 70% | C(C)OC(\C(=C\C(=O)OCC)\C1=C(C=C(C=C1)Cl)Cl)=O | C14H14Cl2O4
